US07977362B2
To a suspension of trans-2-aminocyclohexylmethanol hydrochloride (4.50 g, 27.3 mmol) and triethylamine (11 mL, 81 mmol) in 200 mL dichloromethane at 0° C. was added dropwise a solution of 4-chlorobenzenesulfonyl chloride (5.69 g, 27.1 mmol) in 25 mL dichloromethane. The reaction was stirred at 0° C. for 1 h, then washed with aqueous sodium bicarbonate and water. The organic layer was concentrated and purified by flash chromatography on a 40 g silica gel column using a gradient of 0 to 100% ethyl acetate in hexane to give 4-chloro-N-(trans-2-hydroxymethylcyclohexyl)benzenesulfonamide (6.5 g, 78%). 1H NMR (400 MHz, CDCl3) δ ppm 7.82 (m, 2H), 7.48 (m, 2H), 5.21 (d, J=7.81 Hz, 1H), 3.76-3.95 (m, 1H), 3.37 (ddd, J=11.14, 7.11, 3.40 Hz, 1H), 2.87-3.10 (m, 1H), 2.34-2.55 (m, 1 H), 1.47-1.70 (m, 4H), 1.19-1.40 (m, 2H), 0.94-1.19 (m, 3H). LC/MS R.T.=2.73 min; [M+H]+=304. HRMS [M+H]+ calc'd 304.0774, found 304.0768.

reactant | trans-2-aminocyclohexylmethanol hydrochloride | 27.3 mmol, 4.50 g | Cl.N[C@H]1[C@@H](CCCC1)CO
reactant | triethylamine | 81 mmol, 11 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 27.1 mmol, 5.69 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-chloro-N-(trans-2-hydroxymethylcyclohexyl)benzenesulfonamide | 6.5 g, 78% | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)CO | C13H18ClNO3S
